US03965113
A mixture of 4.1 g. potassium carbonate, 3.7 g. p-thiocresol and 5.1 g. 2-amino-4-chloro-1-nitrobenzene in 20 ml. dimethylformamide is stirred under nitrogen for 20 hours at 20°-25°C, water is added and the product filtered off. Recrystallization from methanol gives 2-amino-4-(p-methylphenylthio)-1-nitrobenzene.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | p-thiocresol | CC1=CC=C(C=C1)S | C7H8S
reactant | 2-amino-4-chloro-1-nitrobenzene | NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H5ClN2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-amino-4-(p-methylphenylthio)-1-nitrobenzene | NC1=C(C=CC(=C1)SC1=CC=C(C=C1)C)[N+](=O)[O-] | C13H12N2O2S
